* Schematics Netlist *



V_V1         $N_0001 $N_0002   
R_R1         $N_0001 $N_0003  1.123k  
R_R2         $N_0002 $N_0003  1.280k  
R_R3         $N_0004 $N_0003  1.425k  
R_R4         $N_0002 $N_0003  1.026  
V_V2         $N_0004 $N_0002 DC -10  
